US07399759B2
7-Chloro-2-(4-methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 4-chloro-2-mercaptobenzoic acid (3.0 g, 15.9 mmol), 2-cyano-4-methylpyridine (1.9 g, 16.0 mmol) and pyridine (15 ml) was refluxed for 9 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration, subjected to a silica gel column chromatography, eluted with ethyl acetate-methanol (5:1, v/v) and recrystallized from chlorobenzene-hexane to give the titled compound (1.47 g, 32%).

reactant | 4-chloro-2-mercaptobenzoic acid | 15.9 mmol, 3.0 g | ClC1=CC(=C(C(=O)O)C=C1)S | C7H5ClO2S
reactant | 2-cyano-4-methylpyridine | 16.0 mmol, 1.9 g | C(#N)C1=NC=CC(=C1)C | C7H6N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 7-Chloro-2-(4-methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.47 g, 32% | ClC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)C)=O)C=C1 | C14H9ClN2OS
